US04446146
(i) 4-Allyl-3-(2-hydroxyprop-2-yl)-1-(1-benzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)azetidin-2-one
A solution of N-isopropylcyclohexylamine (0.60 g) in dry tetrahydrofuran (10 cm3) was stirred under argon and cooled to -78°. This was treated with a 2.5 M solution of n-butyl lithium in n-hexane (1.70 cm3). After ten minutes, a solution of 4-allyl-1-(1-benzyloxycarbonyl-1-triphenylphosphoranylidenemethyl) azetidin-2-one (1.00 g) in dry tetrahydrofuran (15 cm3) was added. Five minutes were allowed for the formation of the C(3) carbanion which was then quenched by the addition of dry acetone (0.71 cm3). The cooling bath was then removed and the mixture stirred for a further ten minutes before it was neutralised with acetic acid (0.56 g). The solvent was evaporated under reduced pressure and the residue chromatographed on silica gel 60 (<230 mesh), eluting with ethyl acetate/60°-80° petroleum ether mixtures grading from 1:1 to 7:3. this gave the two separate isomers of 4-allyl-3-(2-hydroxyprop-2-yl)-1-(1-benzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)azetidin-2-one(0.30 g 27%) and (0.22 g, 20%); νmax (CHCl3) 3000, 1735 and 1620 cm-1.

reactant | N-isopropylcyclohexylamine | 0.60 g | C(C)(C)NC1CCCCC1 | C9H19N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-allyl-1-(1-benzyloxycarbonyl-1-triphenylphosphoranylidenemethyl) azetidin-2-one | 1.00 g | C(C=C)C1CC(N1C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O | C33H30NO3P
reactant | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
solvent | n-hexane | 1.70 cm3 | CCCCCC | C6H14
product | 4-Allyl-3-(2-hydroxyprop-2-yl)-1-(1-benzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)azetidin-2-one | C(C=C)C1C(C(N1C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O)C(C)(C)O | C36H36NO4P
